US07405299B2
B. Preparation of 2-(6-Bromo-imidazo[1,2-a]pyridin-2-yl)-1-morpholin-4-yl-ethanone
Add 2M trimethylaluminum in toluene (1.94 mL, 3.88 mmol) to a solution of morpholine (0.34 g, 3.88 mmol) in dichloromethane (10 mL). Stir for 10 min and add a solution of (6-bromo-imidazo[1,2-a]pyridin-2-yl)-acetic acid ethyl ester (1.1 g, 3.88 mmol) in dichloromethane (12 mL). Heat at 40° C. for 1 h, carefully dilute with saturated aqueous ammonium chloride and extract into dichloromethane. Concentration followed by filtration gives the titled compound (0.55 g, 43%) as a white solid. TOF MS ES+ exact mass calculated for C13H14BrN3O2 (p+1): m/z=324.0348; Found: 324.0330. 1H NMR (400 MHz, DMSO-d6) δ 8.84 (m, 1H), 7.77 (s, 1H), 7.45 (d, J=10 Hz, 1H), 7.29 (dd, J=10, 2.0 Hz, 1H), 3.81 (s, 2H), 3.55-3.4 (m, 8H).

reactant | trimethylaluminum | 2M | C[Al](C)C
reactant | toluene | 3.88 mmol, 1.94 mL | C1(=CC=CC=C1)C | C7H8
reactant | morpholine | 3.88 mmol, 0.34 g | N1CCOCC1 | C4H9NO
reactant | (6-bromo-imidazo[1,2-a]pyridin-2-yl)-acetic acid ethyl ester | 3.88 mmol, 1.1 g | C(C)OC(CC=1N=C2N(C=C(C=C2)Br)C1)=O | C11H11BrN2O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-(6-Bromo-imidazo[1,2-a]pyridin-2-yl)-1-morpholin-4-yl-ethanone | 0.55 g, 43% | BrC=1C=CC=2N(C1)C=C(N2)CC(=O)N2CCOCC2 | C13H14BrN3O2
